* BugBot VISION board - simulation model library (2026-09-02)
* Same discipline as models.lib: no public ngspice models exist for any of
* these parts, so each is a DC-behavioral subcircuit built from its datasheet
* numbers. What they do NOT model: switching ripple, loop stability,
* efficiency curves, or anything inside the IC.

*----------------------------------------------------------------------
* TPS63020 buck-boost (U1), TI SLVS916I.
*   VIN/VINA 1.8-5.5 V, FB threshold 0.5 V. Switch limit I_SW is
*   3500/4000/4500 mA (EC table) -- the "3 A" often quoted is not a datasheet
*   parameter. The rating that applies to THIS rail is the features bullet,
*   2 A output at VOUT = 3.3 V for VIN > 2.5 V, and TI Figure 2 gives the
*   curve below that. This model enforces NO limit at all, so headroom must be
*   checked outside it -- see the note in sim_vision_power.py section D.
*   Regulates FB to 0.5 V through the REAL external divider, in buck OR
*   boost, which is the whole reason this part is here.
*   Input current from power balance at 90% (datasheet efficiency curves sit
*   between 88 and 95% over this load range).
* nodes: in gnd en out fb
.subckt TPS63020 in gnd en out fb
Bena ena gnd V = u(V(en,gnd)-1.2)*u(V(in,gnd)-1.8)
Breg regv gnd V = V(ena) * min(max(1e4*(0.5 - V(fb,gnd)), 0), 5.5)
Vosns regv rego DC 0
S1   rego out ena gnd SWEN
Bibat in gnd I = V(ena) * V(out,gnd)*abs(I(Vosns)) / (max(V(in,gnd),0.5)*0.90)
Rbl  out gnd 10Meg
.model SWEN SW (Ron=30m Roff=100Meg Vt=0.5 Vh=0.1)
.ends

*----------------------------------------------------------------------
* TLV62569 buck (U2 core rail, and the A/B comparison for the 3.3 V rail).
*   FB 0.6 V, 2 A, and CRITICALLY it is buck-only: at 100% duty the output
*   can never exceed the input minus the high-side path drop. That ceiling is
*   the entire question this simulation exists to answer, so it is modelled
*   explicitly as min(regulated, Vin - Rpath*Iout).
*   Rpath 0.19 ohm = 110 mOhm high-side FET (datasheet) + 78 mOhm inductor DCR
*   (FNR3015S2R2MT).
* nodes: in gnd en out fb
.subckt TLV62569 in gnd en out fb
Bena ena gnd V = u(V(en,gnd)-1.0)*u(V(in,gnd)-2.5)
Breg regv gnd V = V(ena) * min( min(max(1e4*(0.6 - V(fb,gnd)), 0), 5.5),
+ max(V(in,gnd) - 0.19*abs(I(Vosns)), 0) )
Vosns regv rego DC 0
S1   rego out ena gnd SWEN
Bibat in gnd I = V(ena) * V(out,gnd)*abs(I(Vosns)) / (max(V(in,gnd),0.5)*0.90)
Rbl  out gnd 10Meg
.model SWEN SW (Ron=5m Roff=100Meg Vt=0.5 Vh=0.1)
.ends

*----------------------------------------------------------------------
* AP2127K-ADJ LDO (U5 2.8 V, U6 1.3 V), Diodes DS36478.
*   VFB 0.8 V, 300 mA, dropout 300 mV at 300 mA -> 1.0 ohm equivalent.
*   Being an LDO it is also ceiling-limited by its input, same as the buck.
* nodes: in gnd en out fb
*   ⚠ Bref is referenced to gnd, so WITHOUT the Bin source below the regulator
*   would conjure its output current out of ground and draw NOTHING from its
*   input. An adversarial review of the first run caught exactly that: the two
*   camera LDOs showed I(in) = 0.0 mA while their loads pulled 150 mA, which
*   under-counted the 3.3 V rail by ~17% and flattered every sweep.
*   An LDO conserves CURRENT, not power: Iin = Iout + Iq (Iq 60 uA typ).
*   THE SAME DEFECT IS IN AP2112K33 IN models.lib, so the Motion board's
*   power-tree results are affected too.
.subckt AP2127KADJ in gnd en out fb
Bref ref gnd V = u(V(en,gnd)-1.2)*u(V(in,gnd)-2.5) *
+ min( min(max(1e4*(0.8 - V(fb,gnd)), 0), 5.5),
+ max(V(in,gnd) - 1.0*min(abs(I(Vsns)),0.3), 0) )
Vsns ref out DC 0
* Fin, not a B-source: abs(I(...)) inside a behavioural source with a u() step
* aborts transient analysis. A linear current-controlled current source is the
* same physics and converges.
Fin  in gnd Vsns 1
Iq   in gnd DC 60u
Rbl  out gnd 10Meg
.ends
